US07618959B2
a) 2-[4-(6-Methoxy-[1,5]naphthyridin-4-yl)phenyl]ethylamine hydrochloride salt
To a stirred solution of {2-[4-(6-methoxy[1,5]naphthyridin-4-yl)phenyl]ethyl}carbamic acid tert-butyl ester (0.67 g, 1.76 mmole) in dry CH2Cl2 (75 mL) at RT was added trifluoroacetic acid (50 mL). After 2 h, the reaction solution was concentrated under vacuum and the residue dissolved in 4M HCl in dioxane (5 mL) at RT. After 1 hr, the reaction contents were concentrated and dried under high vacuum to give the crude title compound as a tan solid which was used immediately in the proceeding reaction: LC-MS (ES) m/e 280 (M+H)+.

reactant | {2-[4-(6-methoxy[1,5]naphthyridin-4-yl)phenyl]ethyl}carbamic acid tert-butyl ester | 1.76 mmole, 0.67 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)C1=CC=NC2=CC=C(N=C12)OC)=O | C22H25N3O3
reactant | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(6-Methoxy-[1,5]naphthyridin-4-yl)phenyl]ethylamine hydrochloride salt | Cl.COC=1N=C2C(=CC=NC2=CC1)C1=CC=C(C=C1)CCN | InChI=1S/C17H17N3O.ClH/c1-21-16-7-6-15-17(20-16)14(9-11-19-15)13-4-2-12(3-5-13)8-10-18;/h2-7,9,11H,8,10,18H2,1H3;1H
